US08633220B2
Step 2. 6-(1-Hydroxybutyl)-1-naphthoic acid
In accordance with the procedure of Example 1, step 4, methyl 6-(1-hydroxybutyl)-1-naphthoate (14 mg, 0.05 mmol) was converted into 13 mg (98%) of 641-hydroxybutyl)-1-naphthoic acid.

reactant | methyl 6-(1-hydroxybutyl)-1-naphthoate | 0.05 mmol, 14 mg | OC(CCC)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C16H18O3
reactant | 1-naphthoic acid | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
product | 6-(1-Hydroxybutyl)-1-naphthoic acid | OC(CCC)C=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H16O3
